US06395733B1
(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)(-m-tolyl-)amine Hydrochloride
Following the procedure described in Example 1, the title compound was prepared from 4-chloro-7H-pyrrolo[2,3-d]pyrimidine and m-toluidine (34%). HRMS: Calcd. 225.1140, Found 225.1131; anal. RP18-HPLC RT: 3.45 min; HCl salt MP: 219° C.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | HCl | Cl | ClH
product | (7H-Pyrrolo[2,3-d]pyrimidin-4-yl)(-m-tolyl-)amine Hydrochloride | Cl.N1=CN=C(C2=C1NC=C2)NC=2C=C(C=CC2)C | InChI=1S/C13H12N4.ClH/c1-9-3-2-4-10(7-9)17-13-11-5-6-14-12(11)15-8-16-13;/h2-8H,1H3,(H2,14,15,16,17);1H
